US06020345
Stage 1: (6-[1,3]dioxolan-2-yl-pyridin-2-yl)dimethyl-amine
0.60 g of 2-[1,3]dioxolan-2-yl-6-fluoropyridine (3.55 mmol) and 2.50 ml of dimethylamine at 33% in ethanol (17.7 mmol) are mixed and then the mixture is heated at the temperature of 100° C. for 12 hours. After evaporation under vacuum, the residue is taken up in chloroform, the mixture is washed with water, dried over magnesium sulfate, filtered and the chloroform is evaporated under vacuum. The title product is obtained in the form of a yellow oil which is used in the next stage without further purification.

reactant | 2-[1,3]dioxolan-2-yl-6-fluoropyridine | 3.55 mmol, 0.60 g | O1C(OCC1)C1=NC(=CC=C1)F | C8H8FNO2
reactant | dimethylamine | 2.50 ml | CNC | C2H7N
reactant | ethanol | 17.7 mmol | C(C)O | C2H6O
product | (6-[1,3]dioxolan-2-yl-pyridin-2-yl)dimethyl-amine | O1C(OCC1)C1=CC=CC(=N1)N(C)C | C10H14N2O2
